US09359344B2
(1) Preparation of 5-bromo-N-methyl-N-(1-methyl-1H-tetrazol-5-yl)pyridine-2-amine
5-bromo-N-(1-methyl-1H-tetrazol-5-yl)pyridine-2-amine (1 g, 3.9 mmol) was dissolved in 50 mL THF, potassium tert-butylate (0.88 g, 7.8 mmol) and iodomethane (1.1 g, 7.8 mmol) were added slowly. The reaction was heated to 70° C. and reacted for 12 h. After filtration and concentration, 330 mg of product was obtained by separation on a silica gel column (dichloromethane:methanol=100:1), at a yield of 31%.

reactant | 5-bromo-N-(1-methyl-1H-tetrazol-5-yl)pyridine-2-amine | 3.9 mmol, 1 g | BrC=1C=CC(=NC1)NC1=NN=NN1C | C7H7BrN6
reactant | potassium tert-butylate | 7.8 mmol, 0.88 g | CC(C)(C)[O-].[K+]
reactant | iodomethane | 7.8 mmol, 1.1 g | IC | CH3I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 5-bromo-N-methyl-N-(1-methyl-1H-tetrazol-5-yl)pyridine-2-amine | 330 mg, yield of 31% | BrC=1C=CC(=NC1)N(C1=NN=NN1C)C | C8H9BrN6
